US04558155
N-[2-(3,5-Dichlorophenoxy)ethyl]-N-(1-methylethyl)carbamic chloride
A solution of 4.53 g (0.018 mole) of 2-(3,5-dichlorophenoxy)-N-(1-methylethyl)ethanamine (oil obtained in Preparation 1), 3.92 g (0.040 moles) phosgene in 21 ml solution of benzene and 3.92 g (0.018 mole) of 1,8-bis(dimethylamino)naphthalene (proton sponge) in 200 ml of methylene chloride was stirred overnight at room temperature. The reaction mixture was extracted with 1N sulfuric acid and the methylene chloride layer thereafter dried over sodium sulfate-sodium carbonate. Evaporation of solvent gave an oil which, when triturated with hexane, gave 1.91 g (34.2%) g of solid. The solid forms a gum on exposure to air which prevents measurement of melting point by conventional means.

reactant | 2-(3,5-dichlorophenoxy)-N-(1-methylethyl)ethanamine | 0.018 mole, 4.53 g | ClC=1C=C(OCCNC(C)C)C=C(C1)Cl | C11H15Cl2NO
reactant | phosgene | 0.040 moles, 3.92 g | C(=O)(Cl)Cl | CCl2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 1,8-bis(dimethylamino)naphthalene | 0.018 mole, 3.92 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(3,5-Dichlorophenoxy)ethyl]-N-(1-methylethyl)carbamic chloride | ClC=1C=C(OCCN(C(=O)Cl)C(C)C)C=C(C1)Cl | C12H14Cl3NO2
